US07125990B2
[6-Chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazol-3-ylmethyl]-cyclopropylmethyl-propyl-amine, Scheme 6: (DD)
A solution of 6-chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide (27.2 mg, 0.058 mmol) in toluene (3 mL) was added a 65% solution of Red-Al in toluene (0.10 mL, 0.320 mmol). The reaction mixture was stirred at room temperature for 14 h. A solution of Rochelle's salt (2.0 mL) was added carefully at 0° C. and the mixture was vigorously stirred for 30 min. The crude product was extracted with ethyl acetate. The combined organic extracts were dried with Na2SO4. The solvent was removed under reduced pressure and the crude product was purified by a reverse-phase preparative HPLC. Yield—12.8 mg (39%). LC/MS: tR=1.77 min., MS: [M+H]=453.

reactant | 6-chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide | 0.058 mmol, 27.2 mg | C1(CC1)CN(C(=O)C1=C(N=C2N1C=C(N2C2=C(C=C(C=C2C)C)C)Cl)C(F)(F)F)CCC | C23H26ClF3N4O
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | Rochelle's salt | 2.0 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.320 mmol, 0.10 mL | C1(=CC=CC=C1)C | C7H8
product | [6-Chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazol-3-ylmethyl]-cyclopropylmethyl-propyl-amine | ClC=1N(C=2N(C(=C(N2)C(F)(F)F)CN(CCC)CC2CC2)C1)C1=C(C=C(C=C1C)C)C | C23H28ClF3N4
